US06872720B2
Toluene-4-sulfonic acid 5-acetyl-4-cyclopentyl-1H-pyrazol-3-yl ester (0.65 g, 1.87 mmol) and benzhydrazide (0.28 g, 1.1 molar eq) were stirred together in xylene (20 ml) at reflux for 2.5 h. The solvent was reduced to ˜5 ml and Dowtherm A (20 ml) was added and the reaction mixture was heated at 180° C. for 2 h. The mixture was cooled and poured directly onto a column of silica gel, and the Dowtherm was eluted off with dichloromethane before eluting the product off with 3-6% ethyl acetate in dichloromethane (UV detection). Toluene-4-sulfonic acid 3-cyclopentyl-4-methyl-7-phenylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester was obtained as a light brown solid (0.62 g). 1H NMR (360 MHz, CDCl3) δ 1.73-2.07 (8H, m), 2.49 (3H, s), 2.91 (3H, s), 3.48 (1H, m), 7.26-7.61 (5H, m), 7.93-7.97 (2H, m), 8.13-8.15 (2H, d, J=8.7 Hz); MS (ES+) m/e 449 [MH]+.

reactant | Toluene-4-sulfonic acid 5-acetyl-4-cyclopentyl-1H-pyrazol-3-yl ester | 1.87 mmol, 0.65 g | C(C)(=O)C1=C(C(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C)C1CCCC1 | C17H20N2O4S
reactant | benzhydrazide | 1.1 molar, 0.28 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | Dowtherm A | 20 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Toluene-4-sulfonic acid 3-cyclopentyl-4-methyl-7-phenylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | C1(CCCC1)C=1C(=NN2C(=NN=C(C21)C)C2=CC=CC=C2)OS(=O)(=O)C2=CC=C(C=C2)C | C24H24N4O3S
